US05952331
Methyl 4,4-dimethyl-3-oxopentanoate (15.82 g) and guanidine carbonate (20.0 g) were mixed in 80 mL of ethanol, and the solution refluxed for 16 hours. The reaction mixture was concentrated to 50 mL by removal of solvent under reduced pressure, and 20 mL of water was added. The remaining mixture was acidified to pH 5 with acetic acid, affording a white precipitate. The precipitate was collected by filtration, washed with water, and dried in a vacuum oven to give 2-amino-4-hydroxy-6-tert-butylpyrimidine (12.6 g), m.p. 285-288° C. (dec.).

reactant | Methyl 4,4-dimethyl-3-oxopentanoate | 15.82 g | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
reactant | guanidine carbonate | 20.0 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-amino-4-hydroxy-6-tert-butylpyrimidine | 12.6 g | NC1=NC(=CC(=N1)O)C(C)(C)C | C8H13N3O
